US06960575B2
(3S)-3-{(3R)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-oxo-4-phenylbutyric acid (Compound No. 11-1)
Water (0.45 ml) and a 1 N aqueous lithium hydroxide solution (55 μl) are added to a solution of isopropyl (3S)-3-{(3R)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-oxo-4-phenylbutyrate (24.5 mg, Compound No. 2-2) in methanol (0.5 ml), and the mixture is stirred for one hour. The reaction mixture is concentrated under reduced pressure, and 1 N hydrochloric acid is added to the concentrate to acidify the system. The whole is extracted with ethyl acetate, and the extract is washed with water and a saturated aqueous sodium hydrogencarbonate solution successively and dried over magnesium sulfate. The extract is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled compound (21.8 mg).

reactant | Water | 0.45 ml | O | H2O
reactant | lithium hydroxide | 1 N, 55 μl | [OH-].[Li+]
reactant | isopropyl (3S)-3-{(3R)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-oxo-4-phenylbutyrate | 24.5 mg | C(C)(=O)N1[C@@H](C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(C(=O)OC(C)C)=O)CC1=CC=CC=C1)=O)C(C)C | C30H35N3O6
solvent | methanol | 0.5 ml | CO | CH4O
product | (3S)-3-{(3R)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-oxo-4-phenylbutyric acid | 21.8 mg | C(C)(=O)N1[C@@H](C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(C(=O)O)=O)CC1=CC=CC=C1)=O)C(C)C | C27H29N3O6
